US07906502B2
{4-[(2R,3R)-3-{[2-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-oxoethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetic Acid
To a solution of tert-butyl (4-{(2R,3R)-1-(4-fluorophenyl)-3-[(3-nitropyridin-2-yl)dithio]-4-oxoazetidin-2-yl}phenoxy)acetate (0.100 g, 0.179 mmol) in acetone (2 ml) and water (0.5 ml) was added triphenylphosphine (0.047 g, 0.179 mmol). After 30 minutes, the mixture was concentrated. To the residue was added dichloromethane (3 ml) followed by the addition of triethylamine (0.073 g, 0.717 mmol) and 2-bromo-1-(2,3-dihydro-1,4-benzodioxin-6-yl)ethanone (0.115 g, 0.448 mmol). After 30 minutes, full conversion of the thiol had been achieved. The mixture was concentrated and to the residue was added formic acid (2 g) and trifluoroacetic acid (0.2 g). The mixture was allowed to stir at room temperature for 3 h. The crude product obtained was purified through preparative HPLC using an eluent of 10-50% CH3CN in 0.1M NH4OAc buffer. Freeze drying of pure fractions afforded the desired compound. 1H NMR [(CD3)2SO), 400 MHz] δ 4.21-4.32 (m, 9H), 5.09 (d, 1H), 6.78-7.44 (m, 11H).

reactant | tert-butyl (4-{(2R,3R)-1-(4-fluorophenyl)-3-[(3-nitropyridin-2-yl)dithio]-4-oxoazetidin-2-yl}phenoxy)acetate | 0.179 mmol, 0.100 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SSC1=NC=CC=C1[N+](=O)[O-])C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C26H24FN3O6S2
reactant | triphenylphosphine | 0.179 mmol, 0.047 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.717 mmol, 0.073 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-1-(2,3-dihydro-1,4-benzodioxin-6-yl)ethanone | 0.448 mmol, 0.115 g | BrCC(=O)C1=CC2=C(OCCO2)C=C1 | C10H9BrO3
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | water | 0.5 ml | O | H2O
product | {4-[(2R,3R)-3-{[2-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-oxoethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetic Acid | O1CCOC2=C1C=CC(=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)F)C2=CC=C(OCC(=O)O)C=C2)=O | C27H22FNO7S
